US04022897
When 10.0 g. of 4-chloro-2-amino-3-nitropyridine, from Example I-5, and 20 ml of acetic anhydride are heated under reflux for 1 hour and then concentrated, there is obtained 2-acetamido-4-chloro-3-nitropyridine, and, this, heated at 300° C. and treated with chlorine gives 2-acetamido-4,5-dichloro-3-nitropyridine. The latter by the procedure of Example I-2 gives 2-amino-4,5-dichloro-3-pyridinol.

reactant | 4-chloro-2-amino-3-nitropyridine | ClC1=C(C(=NC=C1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetamido-4-chloro-3-nitropyridine | C(C)(=O)NC1=NC=CC(=C1[N+](=O)[O-])Cl | C7H6ClN3O3
